US04927838
A solution of crude 7-methoxy-1-(3-methoxyphenyl)-2-naphthalenecarboxylic acid ethyl ester (4.1 g) in a mixture of methanol (20 mL) and 4N potassium hydroxide (5 mL) was heated at reflux for 3 hours. After the methanol was evaporated off, the reaction was diluted with water and extracted with ether (2×25 mL). The aqueous layer was acidified, extracted with dichloromethane (3×25 mL) and the dried (MgSO4) extracts evaporated to give 3.9 g of crude 7-methoxy-1-(3-methoxyphenyl)-2-naphthalenecarboxylic acid. Crystallization from toluene-hexane provided 3.05 g of acid, mp 164°-168° C. Anal. Calcd for C19H16O4 : C, 74.01; H, 5.23 Found: C, 73.58; H, 5.49

reactant | 7-methoxy-1-(3-methoxyphenyl)-2-naphthalenecarboxylic acid ethyl ester | 4.1 g | C(C)OC(=O)C1=C(C2=CC(=CC=C2C=C1)OC)C1=CC(=CC=C1)OC | C21H20O4
solvent | methanol | 20 mL | CO | CH4O
solvent | potassium hydroxide | 4N, 5 mL | [OH-].[K+]
product | 7-methoxy-1-(3-methoxyphenyl)-2-naphthalenecarboxylic acid | 3.9 g | COC1=CC=C2C=CC(=C(C2=C1)C1=CC(=CC=C1)OC)C(=O)O | C19H16O4
